US06093744
SYNTHESIS OF 2,6-BIS(1-METHYLETHYL)-4-NITROPHENYL SULFAMATE
N-Chlorosulfonyl isocyanate (7.2 mL, 82.6 mmol) was added slowly to a warm solution of 2,6-bis(1-methylethyl)-4-nitrophenol (17.57 g, 78.7 mmol) in 400 mL toluene. The resulting solution was heated to reflux for 6 hours and then cooled to room temperature and concentrated to give a brown oil. Quenched with 200 g ice and extracted with 4×500 mL dichloromethane. The organic solution was dried over MgSO4, filtered, and concentrated to give a tan solid. Recrystallization from dichloromethane gave 14.18 g (60%) of the title compound as an off-white solid; mp 163-167° C.

reactant | N-Chlorosulfonyl isocyanate | 82.6 mmol, 7.2 mL | C(=NS(=O)(=O)Cl)=O | CClNO3S
reactant | 2,6-bis(1-methylethyl)-4-nitrophenol | 78.7 mmol, 17.57 g | CC(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)C)O | C12H17NO3
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 2,6-BIS(1-METHYLETHYL)-4-NITROPHENYL SULFAMATE | 14.18 g, 60% | S(N)(OC1=C(C=C(C=C1C(C)C)[N+](=O)[O-])C(C)C)(=O)=O | C12H18N2O5S
